US07271266B2
A solution of benzyl 4-chlorophenyl ketone (10.0 g, 43.3 mmol) and dimethylformamide dimethylacetal (23 mL, 173 mmol) in DMF (125 mL) was heated at 75° C. for 20 h. The volatiles were removed in vacuo to provide 3-dimethylamino-1-(4-chlorophenyl)-2-(phenyl)prop-2-en-1-one (43.3 mmol assumed) which was used directly in the next step. 1HNMR (CDCl3): δ 2.76 (s, 6H), 7.15 (m, 2H), 7.16-7.3 (m, 5H), 7.36 (m, 2H), 7.41 (s, 1H).

reactant | benzyl 4-chlorophenyl ketone | 43.3 mmol, 10.0 g | ClC1=CC=C(C=C1)C(=O)CC1=CC=CC=C1 | C14H11ClO
reactant | dimethylformamide dimethylacetal | 173 mmol, 23 mL | COC(N(C)C)OC | C5H13NO2
solvent | DMF | 125 mL | CN(C)C=O | C3H7NO
product | 3-dimethylamino-1-(4-chlorophenyl)-2-(phenyl)prop-2-en-1-one | 43.3 mmol | CN(C=C(C(=O)C1=CC=C(C=C1)Cl)C1=CC=CC=C1)C | C17H16ClNO
